US07276505B2
Step 3: Preparation of N-[3-(dimethylamino)propyl]-N′-[4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl) phenyl]urea
2-(4-aminophenyl)-1,2-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one (44 mg, 0.16 mmol) was suspended in toluene under nitrogen atmosphere (0.5 ml) at 0-5° C. DMA (0.5 ml) was added followed by N,N′-carbonyldiimidazole (26 mg, 0.16 mmol). The mixture was stirred for 1 h at 0-5° C. before mixed with a solution of 3-dimethylaminopropylamine (18 mg, 0.18 mmol) in toluene (0.5 ml). Stirring was continued for 1 h and the product was purified by preparative HPLC. The title compound was isolated as a dark red powder (2.6 mg, 6 μmol, 4%). LCMS: m/z 406 [M+H]+.

reactant | 2-(4-aminophenyl)-1,2-dihydro-3H-pyrazolo[4,3-c]cinnolin-3-one | 0.16 mmol, 44 mg | NC1=CC=C(C=C1)N1NC2=C(N=NC=3C=CC=CC23)C1=O | C15H11N5O
reactant | DMA | 0.5 ml | CC(=O)N(C)C | C4H9NO
reactant | 3-dimethylaminopropylamine | 0.18 mmol, 18 mg | CN(CCCN)C | C5H14N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.5 ml | C1(=CC=CC=C1)C | C7H8
product | N-[3-(dimethylamino)propyl]-N′-[4-(3-oxo-1,3-dihydro-2H-pyrazolo[4,3-c]cinnolin-2-yl) phenyl]urea | CN(CCCNC(=O)NC1=CC=C(C=C1)N1NC2=C(N=NC=3C=CC=CC23)C1=O)C | C21H23N7O2
